US09062092B2
A mixture of crude (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid (0.081 mmol) in 4 M hydrogen chloride in 1,4-dioxane (2 mL) was stirred at room temperature for 1 h. The solvent was evaporated and the residue was co-evaporated with diethyl ether (2×) and the resulting solid was dried to afford (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid hydrochloride (0.081 mmol) as an off-white solid and as a 1:1 mixture of diastereoisomers which was used crude in the next reaction. LCMS (m/z) 612.1 [M+H], Tr=1.38 min.

reactant | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid | 0.081 mmol | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(OCCOC1)C(=O)O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C | C36H49N5O10
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid hydrochloride | 0.081 mmol | Cl.N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(OCCOC1)C(=O)O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C | InChI=1S/C31H41N5O8.ClH/c1-18(2)26(27(37)33-20(4)28(38)36-13-5-6-24(35-36)29(39)40)44-30(41)31(17-42-14-15-43-31)12-11-21-7-8-22-9-10-23(19(3)32)34-25(22)16-21;/h7-12,16,18-20,24,26,35H,5-6,13-15,17,32H2,1-4H3,(H,33,37)(H,39,40);1H/b12-11+;/t19-,20+,24+,26+,31?;/m1./s1
